US08003663B2
A mixture of 5-amino-1-ethylpyrazole (1.614 g, 14.5 mmol) and diethyl 2-(1-ethoxyethylidene)malonate [e.g. see J. Am. Chem. Soc., 1931, 53, 1836] (3.68 g) is heated at 150° C. under Dean Stark conditions for 5 hours. Phosphorous oxychloride (25 ml) is carefully added to the mixture and the resulting solution is heated at 130° C. under reflux for 18 hours. The mixture is concentrated in vacuo and the residual oil is carefully added, with cooling, to water (100 ml). The resulting mixture is extracted with dichloromethane (3×100 ml) and the combined organic extracts are dried over anhydrous sodium sulphate and concentrated in vacuo. The residual oil is purified by Biotage chromatography (silica; 90 g) eluting with 5% ethyl acetate in petroleum ether. Fractions containing the desired product are combined and concentrated in vacuo to give ethyl 4-chloro-1-ethyl-6-methyl-1H-pyrazolo[3,4-b]pyridine-5-carboxylate.

reactant | 5-amino-1-ethylpyrazole | 14.5 mmol, 1.614 g | NC1=CC=NN1CC | C5H9N3
reactant | diethyl 2-(1-ethoxyethylidene)malonate | 3.68 g | C(C)OC(C)=C(C(=O)OCC)C(=O)OCC | C11H18O5
reactant | Phosphorous oxychloride | 25 ml | P(=O)(Cl)(Cl)Cl | Cl3OP
product | ethyl 4-chloro-1-ethyl-6-methyl-1H-pyrazolo[3,4-b]pyridine-5-carboxylate | ClC1=C2C(=NC(=C1C(=O)OCC)C)N(N=C2)CC | C12H14ClN3O2
